US09029528B2
(3) Synthesis of 3,4,5-tris(octadecyloxy)benzyl amine
Under an argon atmosphere, 3,4,5-tris(octadecyloxy)benzyl azide (3.00 g, 3.21 mmol) was dissolved in dehydrating tetrahydrofuran (35 mL) and, under ice-cooling, lithium aluminum hydride (162 mg, 4.30 mmol) was added. The reaction mixture was stirred at room temperature for 2 hr. After completion of the reaction, purified water (2 mL) and 4.0 mol/L aqueous sodium hydroxide solution (2 mL) were added dropwise to the reaction mixture to decompose unreacted lithium aluminum hydride, and the reaction mixture was filtered through celite. The filtrate was concentrated under reduced pressure, acetonitrile was added, and the precipitated solid was collected by filtration and dried under reduced pressure to quantitatively give the title compound (3.09 g) as a white solid.

reactant | 3,4,5-tris(octadecyloxy)benzyl azide | 3.21 mmol, 3.00 g | C(CCCCCCCCCCCCCCCCC)OC=1C=C(CN=[N+]=[N-])C=C(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C61H115N3O3
reactant | lithium aluminum hydride | 4.30 mmol, 162 mg | [H-].[Al+3].[Li+].[H-].[H-].[H-]
solvent | tetrahydrofuran | 35 mL | O1CCCC1 | C4H8O
product | 3,4,5-tris(octadecyloxy)benzyl amine | 3.09 g | C(CCCCCCCCCCCCCCCCC)OC=1C=C(CN)C=C(C1OCCCCCCCCCCCCCCCCCC)OCCCCCCCCCCCCCCCCCC | C61H117NO3
